US05847127
To a solution of 4-methoxy-5-(5-undecyl-1H-pyrrol-2-yl-methylene)-1,5-dihydro-pyrrol-2-one (1 g; 2.90 mmols) in dichloromethane (50 ml) at 0-5° C. trifluoromethansulphonic anhydride (0.586 ml; 3.48 mmols) is added dropwise under nitrogen atmosphere. After stirring at this temperature for 30' the reaction mixture is poured into a 2% NaHCO3 solution and extracted with ethyl acetate (2×50 ml). The collected organic extracts are shacked with brine, anhydrified over anhydrous sodium sulphate and evaporated to dryness. The crude material is chromatographed on a short column of silica gel eluting with hexane/ethyl acetate 85/15 to give 2-trifluoromethansulphonyloxy-4-methoxy-5-[(5-undecyl-2H-pyrrol-2-ylidene)methyl]-1H-pyrrole (980 mg; 2.06 mmols) as a yellow solid. Yield: 71%.

reactant | 4-methoxy-5-(5-undecyl-1H-pyrrol-2-yl-methylene)-1,5-dihydro-pyrrol-2-one | 2.90 mmols, 1 g | COC1=CC(NC1=CC=1NC(=CC1)CCCCCCCCCCC)=O | C21H32N2O2
reactant | trifluoromethansulphonic anhydride | 3.48 mmols, 0.586 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-trifluoromethansulphonyloxy-4-methoxy-5-[(5-undecyl-2H-pyrrol-2-ylidene)methyl]-1H-pyrrole | 2.06 mmols, 980 mg, Yield: 71% | FC(S(=O)(=O)OC=1NC(=C(C1)OC)C=C1N=C(C=C1)CCCCCCCCCCC)(F)F | C22H31F3N2O4S
